US05495046
1.22 ml of thionyl chloride was added to a solution of 3.24 g of 3-[5-chloro-2-(2-phenylethoxy)phenyl]propanol and 5 ml of hexamethylphosphoric triamide in 25 ml of tetrahydrofuran under ice-cooling and stirred at room temperature for 2 hours. The reaction mixture was poured into water (100 ml), extracted with ethyl acetate, successively washed with water twice and a saturated aqueous solution of sodium hydrogencarbonate 4 times and dried over anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, 3.21 g of crude 4-chloro-2-(3-chloropropyl)-1-(2-phenylethoxy)benzene was obtained. This compound was not purified any more but used in the subsequent reaction.

reactant | thionyl chloride | 1.22 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[5-chloro-2-(2-phenylethoxy)phenyl]propanol | 3.24 g | ClC=1C=CC(=C(C1)CCCO)OCCC1=CC=CC=C1 | C17H19ClO2
reactant | hexamethylphosphoric triamide | 5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-chloro-2-(3-chloropropyl)-1-(2-phenylethoxy)benzene | 3.21 g | ClC1=CC(=C(C=C1)OCCC1=CC=CC=C1)CCCCl | C17H18Cl2O
